US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (350 mg) is dissolved in 1,4-dioxane (1 ml), then thereto are added pyrrolidin-2-one (100 mg), tris(dibenzylideneacetone)-dipalladium (23 mg), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (21 mg) and cesium carbonate (241 mg) and the mixture is stirred at 100° C. under nitrogen flow overnight. After allowing to cool to room temperature, water is added to the reaction mixture, followed by extraction with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, then thereto is added a small amount of NH-silica gel, the mixture is filtered, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=4:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (105 mg). MS (m/z): 584 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-iodopyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 350 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)I)CC | C27H26F6IN5O3
reactant | pyrrolidin-2-one | 100 mg | N1C(CCC1)=O | C4H7NO
reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 21 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 241 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)-dipalladium | 23 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | water | O | H2O
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-(pyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 105 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=CC(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C27H27F6N5O3
